US04062844
4-(4-Amino-6,7-dimethoxyquinazolin-2-yl)piperazine-1-imidic Acid Methyl Ester
Under anhydrous conditions, 6.3 g. (0.02 mole) of 2-(4-cyanopiperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline is dissolved in 150 ml. of ethyl ether and 1.8 ml. (0.044 mole) of reagent grade methanol is added. The solution is cooled to 0° C. and anhydrous hydrogen chloride is added until the solution is acid to Congo red paper. The resulting mixture is stored at 0° C. for 2 hours, then allowed to warm to room temperature (25° C) overnight. The reaction mixture is made alkaline with 2N sodium hydroxide, the ether layer separated, washed with 2 × 50 ml. of water, dried over anhydrous magnesium sulfate and evaporated to dryness to obtain the title compound.

reactant | 2-(4-cyanopiperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline | 0.02 mole | C(#N)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C15H18N6O2
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 4-(4-Amino-6,7-dimethoxyquinazolin-2-yl)piperazine-1-imidic Acid Methyl Ester | COC(=N)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C16H22N6O3
